data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2318,"C=CC(C)C(O[B:1]1OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1)C(C)C(CCCCCCC)OC(=O)C(COCC1=CC=CC=C1)NC(=O)OC(C)(C)C.O.[Na+].[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,6425,"CCNC(CCC(=O)NC)(OCC)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10291,"C[S+:1](O)[NH-:2]|(2, 1)"
train,pmechdb_split_0,0,257,"C1=CC=C([CH:1]=[OH+:2])C=C1.C[C:3](=[CH2:4])[OH:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5651,"C=C1CC(C)([C+:1](C)C)CCCC(=[O+][B-](Cl)(Cl)Cl)[CH-:2]1|(2, 1)"
train,pmechdb_split_0,0,1600,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C=CC=C2C=CC=C[C+:4]21|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,9800,"CCC1CC[C+:1](C)[CH:2]1[H:3].CC[OH:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7272,"C[O+](C)[Si-:1](C)(C)(C)[I:2]|((1, 2), 2)"
train,pmechdb_split_0,0,1517,"CC(=O)[O-].O=C(O)C1CCCC[N:1]1[CH:2](CCC[N+](=O)[O-])[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,52,"CC(C)C(N)C(=O)[O-].CC1=C2CCC(=O)C2(C)CC[C:1]1([NH2+:2]C(C(=O)O)C(C)C)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6287,"CC1(C)C2CC23C(=O)CCCC3[O+:1]1[H:2].O=S(=O)(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6106,"C[CH:1]([O:2][B-](F)(F)F)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4359,"CC1=C(F)C=C2C(=O)C(C(=O)O)=CN(CN3CC[N+:1]([CH2:2][C:3]4=[C:4](C)OC(=O)O4)([O-:5])CC3)C2=C1.O=C(O)C1=CC=CC(Cl)=C1|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4928,"CC(=O)O[BH-](OC(C)=O)OC(C)=O.CC(=O)[O-:1].O.O=[N+]([O-])C1=CC=C(N2CC[N+:2](=[C:3]3CC4CC(C4)[CH:4]3[H:5])CC2)C=C1.[Na+]|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,7701,"CC(=O)[O:1][H:2].COC(=O)N([P+](C)(C)C)[N:3]=C([O-])OC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3952,"CC[C:1](C)=[C:2](C)CC.O=S(=O)(O)[O:3][H:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,9177,"CC1=C[CH:1]=[CH:2]C(C)(C)CC([O][Sn-]([Cl])([Cl])([Cl])[Cl])[C+:3](C)CCC1.Cl|((2, 1), 3)"
train,pmechdb_split_0,0,9540,"CC[N:1](C)C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2389,"CCCOC(=O)C[NH:1]P(O)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.N#N.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8230,"C=CC[N+:1]1=[CH:2]CCC2(CC3=C(C=CC=C3)C2=O)C1=O.C[Si](C)(C)C[CH:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8004,"CC(O)=[O:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,1088,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=C[CH:1]([H:2])[C:3](C2=C(Br)C=CC=C2)=[O+:4]1.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4046,"C=CCC1CC1[CH2-:1].C[N+]1(C)CC[N+](C)(C)[Li-:2]1|(1, 2)"
train,pmechdb_split_0,0,8766,"CC(O)=[O:1].C[C+:2](C)C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,203,"CC1(C)C=C[C:1](=[O:2])C(C)(CC[C:3](=[CH2:4])[O-:5])C1.CO|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8313,"C[O+:1](C([O-])(Cl)C1=CC=CC=C1)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9537,"C=CCC(OC)=[N+:1](Cl)[H:2].[Cl-].[Na][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6047,"CN(C)C1=CC=[N:1]C=C1.O=C(C1=CC=CC=C1)[CH2:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9089,"CCO.O=C(C1=CC(C(F)(F)F)=CC(C(F)(F)F)=C1)N1CC[C:1](=[O+:2]CCO)CC1CC1=CC=CC=C1.[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1430,"CCCC(C(C)CC(=O)N(C)CC)[N:1]=[N:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9100,"CCCCCC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(CC)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9486,"C1=CC=C([P+:1](C2=CC=CC=C2)(C2=CC=CC=C2)[O:2][CH2:3]C2=CC3=C(C=CC=C3)C=C2)C=C1.CCOC(=O)NN=C(O)OCC.CCOC(=O)NNC(=O)OCC.O=C(CCCC=C(F)F)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5923,"CC(C)[O-].CCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(CC)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,8955,"CS(=O)(=O)[N:1](C)[C:2]#[C:3]C.C[Si](C)(C)[N+:4]#[C:5]C.O=S(=O)([O-])C(F)(F)F|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,8402,"CC(C)[CH2][Al-:1]([OH])([CH2]C(C)C)[OH+:2]C(=CCC1=CC=CC=C1)C1=CC=CC=C1.O|((1, 2), 2)"
train,pmechdb_split_0,0,2464,"CCNC(CCC(=O)OCC)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5055,"C1CC[NH+:1]([H:2])C1.CN1C2CCCC1CC(N1CCCC1)([O:3][Ti-]([Cl])([Cl])([Cl])[Cl])C2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1040,"CNC(CO[P:1](OC(C)C)(OC(C)C)([O-:2])[F:3])C(=O)OC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6192,"CC(C1=C(O)C=CC=C1)=[N+:1](CCO)[H:2].NCCO.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6716,"C=[O+][Si-:1](C)(C)(C)[I:2]|((1, 2), 2)"
train,pmechdb_split_0,0,10124,"C=[O+:1][Si-:2](C)(C)(C)F|((2, 1), 1)"
train,pmechdb_split_0,0,6155,"C[C:1](CC[C:2](=[CH2:3])[O-:4])=[O:5]|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,5324,"C[P:1](Cl)Cl.[CH3][Mg:2][I]|(1, 2)"
train,pmechdb_split_0,0,2927,"CCCC1CC2=C(C(O)=C(OC)C=C2)[C:1]([O-:2])=[C:3]1CCC(C)=O.O.O=C[O][Na].[Na][OH+:4][H:5]|(2, 1);((1, 3), 5);((5, 4), 4)"
